US06951879B2
2.0 g (6.55 mmol) 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-ol in 30 ml acetone were treated with 5.89 g (42.5 mmol, 6.5 eq) K2CO3 and 1.9 ml (16.33 mmol, 2.5 eq) 1,4-dibromobutane. The reaction mixture was stirred at 45° C. for 8 h and at RT over night, filtered and evaporated. The excess of dibromide was removed in vacuo and the crude product was purified by column chromatography on silica gel with a gradient EtOAc:hexane 1:9 to 1:4 to yield 2.0 g (71%) 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole as yellow semisolid, MS: 439 (M, 2Br).

reactant | 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-ol | 6.55 mmol, 2.0 g | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)O | C13H8BrNOS
reactant | K2CO3 | 42.5 mmol, 5.89 g, 6.5 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dibromobutane | 16.33 mmol, 1.9 ml, 2.5 eq | BrCCCCBr | C4H8Br2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | 2.0 g, 71% | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
